US07572808B2
F. Preparation of 8-bromo-7-(4-chlorophenyl)-5-methyl-2-((2-methyl-6-(trifluoromethyl)pyridin-3-yl)methyl)-[1,2,4]triazolo[4,3-a]pyridin-3(2H)-one
To a solution of 8-bromo-7-(4-chlorophenyl)-5-methyl-[1,2,4]triazolo[4,3-a]pyridin-3(2H)-one (42 mg, 0.124 mmol), and 3-(chloromethyl)-2-methyl-6-(trifluoromethyl)pyridine (39 mg, 0.186 mmol) in anhydrous DMF (0.5 mL) was added anhydrous potassium carbonate (34.6 mg, 0.25 mmol). The resulting suspension was stirred under argon at 80° C. for 1 h. After cooling to room temperature, the reaction mixture was diluted with water (10 mL). The resulting precipitate was filtered, washed with water, and dried in a vacuum oven at 60° C. for 16 h to afford 56 mg (89%) of the title compound as an off-white solid. HPLC/MS: retention time=4.15 min, [M+H]+=512.2.

reactant | 8-bromo-7-(4-chlorophenyl)-5-methyl-[1,2,4]triazolo[4,3-a]pyridin-3(2H)-one | 0.124 mmol, 42 mg | BrC=1C=2N(C(=CC1C1=CC=C(C=C1)Cl)C)C(NN2)=O | C13H9BrClN3O
reactant | 3-(chloromethyl)-2-methyl-6-(trifluoromethyl)pyridine | 0.186 mmol, 39 mg | ClCC=1C(=NC(=CC1)C(F)(F)F)C | C8H7ClF3N
reactant | potassium carbonate | 0.25 mmol, 34.6 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
solvent | water | 10 mL | O | H2O
product | 8-bromo-7-(4-chlorophenyl)-5-methyl-2-((2-methyl-6-(trifluoromethyl)pyridin-3-yl)methyl)-[1,2,4]triazolo[4,3-a]pyridin-3(2H)-one | 56 mg, 89% | BrC=1C=2N(C(=CC1C1=CC=C(C=C1)Cl)C)C(N(N2)CC=2C(=NC(=CC2)C(F)(F)F)C)=O | C21H15BrClF3N4O
